US08445501B2
cis-4-[4-Methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(cyclopropanecarbonyl-amino)cyclohexyl]-amide
Starting from cis-4-[4-methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide (example A183) and cyclopropanecarbonyl chloride the title compound was obtained as colorless solid.

reactant | cis-4-[4-methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide | N[C@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C=C2)OC)OCCOC | C23H29N5O4
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | cis-4-[4-Methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(cyclopropanecarbonyl-amino)cyclohexyl]-amide | C1(CC1)C(=O)N[C@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C=C2)OC)OCCOC | C27H33N5O5
